US07812043B2
1-Cyclopentyl-1H-indole-3-carboxylic acid thiazol-2-ylamide
The crude derivative of indole-3-carboxylic acid was dissolved in NMP (5 mL). EDAC (1.09 g, 5.7 mmol) and HOBt (0.92 g, 6.84 mmol) were added. The mixture was stirred at room temperature for 1 hour before 2-aminothiazole (5.7 mmol) was added. The mixture was heated to 120° C. for 2 hours. After cooling to room temperature the reaction mixture was separated between diethyl ether (50 mL) and water (50 mL). The organic phase was washed with saturated aqueous Na2CO3 (50 mL), dried (Na2SO4) and the solvent removed in vacuo. The crude material was recrystalized from acetonitrile to give the title compound.

reactant | indole-3-carboxylic acid | N1C=C(C2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | EDAC | 5.7 mmol, 1.09 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 6.84 mmol, 0.92 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-aminothiazole | 5.7 mmol | NC=1SC=CN1 | C3H4N2S
solvent | NMP | 5 mL | CN1CCCC1=O | C5H9NO
product | 1-Cyclopentyl-1H-indole-3-carboxylic acid thiazol-2-ylamide | S1C(=NC=C1)NC(=O)C1=CN(C2=CC=CC=C12)C1CCCC1 | C17H17N3OS
